US04965270
(d) 5-(N'-Benzoylthiocarbamoyl)amino-1-(3-benzyloxyprop-1-oxy)imidazole-4-carboxamide
Benzoylisothiocyanate (1.0 ml, 7.6 mmol) in acetone (100 ml) was added to a solution of 5-amino-1-(3-benzyloxyprop-1-oxy)imidazole-4-carboxamide (2.0 g, 6.9 mmol) in hot acetone (200 ml). The solution was boiled under reflux for 6 hours, cooled, evaporated under reduced pressure, and the residue chromatographed on silica gel (eluted with chloroform and then chloroform-ethanol, 30:1), yielding the title compound (3.0 g, 96%), IR: υmax (KBr) 3470, 3300, 3130, 1670, 1610, 1535, 1495 cm-1. 1H NMR: δH [(CD3)2SO] 1.93 (2H, quintet, J=6.3 Hz, CH2CH2CH2), 3.54 (2H, t, J=6.3 Hz, CH2OCH2Ph), 4.39 (4H, m, CH2ON, CH2Ph), 7.12 (1H, CONH), 7.25 (6H, m, PhCH2, CONH), 7.54 (2H, t, 2 protons of PhCO), 7.68 (1H, t, 1 proton of PhCO), 8.10 (3H, m, H-2, 2 protons of PhCO), 11.95 (2H, br.s, 2 x NH).

reactant | Benzoylisothiocyanate | 7.6 mmol, 1.0 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | 5-amino-1-(3-benzyloxyprop-1-oxy)imidazole-4-carboxamide | 6.9 mmol, 2.0 g | NC1=C(N=CN1OCCCOCC1=CC=CC=C1)C(=O)N | C14H18N4O3
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 5-(N'-Benzoylthiocarbamoyl)amino-1-(3-benzyloxyprop-1-oxy)imidazole-4-carboxamide | 3.0 g, 96% | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(N=CN1OCCCOCC1=CC=CC=C1)C(=O)N | C22H23N5O4S
